US07235555B2
3-[3-(4,7-Diaza-spiro[2.5]oct-7-yl)isoquinolin-1-yl]-4-(7-methyl-1H-Indol-3-yl)-pyrrole-2,5-dione
2-[3-(4,7-Diaza-spiro[2.5]oct-7-yl)-isoquinolin-1-yl]-acetamide (4.95 g, 16.70 mmol) and (7 -Methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester (5.44 g, 25.05 mmol) are azeotroped twice with dry THF. Dry THF (100 ml) is then added, and under an atmosphere of argon KOtBu (1.0 M in THF, 50 ml, 50 mmol) is added dropwise during 20 min. After an additional 90 min, TLC analysis indicates complete conversion of starting materials. The reaction mixture is diluted with H2O and extracted twice with EtOAc. The combined organic layers are washed twice with saturated aq NH4Cl solution (back extracted), dried over Na2SO4 and concentrated. Purification by FCC (CH2Cl2/MeOH 100:0 to 98:2 to 96:4 to 94:6 to 92:8 to 90:10) yields the title compound, which is converted to its acetate salt by concentration of a EtOH/AcOH solution. 1H NMR (DMSO, 400 MHz) δ 0.26 -053 (br, 4H), 1.89 (s, 3H, CH3COOH), 2.36 (s, 3H), 2.80 (br m, 2H), 3.15 -3.48 (br m, 2H), 6.14 (d, J=8.2 HZ, 1H), 6.44(dd, J=8.2/7.4 Hz, 1H), 6.75 (d, J=7.4 Hz, 1H), 7.00 (s, 1H), 7.02 (dd, J=8.2/8.2 Hz, 1H), 7.40 (dd, J=8.2/8.2 Hz, 1H), 7.59 (d, J=8.2 Hz, 1H), 7.63 (d, J=8.2 Hz, 1H), 7.63(d, J=8.2 Hz, 1H), 7.97 (d, J=2.9 Hz, 1H), 11.04-11.21 (br, 1H), 11.86(d, J=2.9 Hz, 1H); ES-MS: 464 [M+H]+.

reactant | 2-[3-(4,7-Diaza-spiro[2.5]oct-7-yl)-isoquinolin-1-yl]-acetamide | 16.70 mmol, 4.95 g | C1CC12NCCN(C2)C=2N=C(C1=CC=CC=C1C2)CC(=O)N | C17H20N4O
reactant | (7 -Methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester | 25.05 mmol, 5.44 g | COC(C(=O)C1=CNC2=C(C=CC=C12)C)=O | C12H11NO3
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 3-[3-(4,7-Diaza-spiro[2.5]oct-7-yl)isoquinolin-1-yl]-4-(7-methyl-1H-Indol-3-yl)-pyrrole-2,5-dione | C1CC12NCCN(C2)C=2N=C(C1=CC=CC=C1C2)C=2C(NC(C2C2=CNC1=C(C=CC=C21)C)=O)=O | C28H25N5O2
